US09029405B2
Step 3: (2S)-3-methyl-2-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)butanoic acid
To (2S)-tert-butyl 3-methyl-2-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)butanoate (86 mg; 0.15 mmol) was added 4M HCl in dioxan and the mixture was heated in a tube at 70° C. for 3 hours. The solvent was then removed in vacuo and the residue was purified by preparative HPLC to give the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 8.56 (1H, s), 8.50 (1H, d, J=8.1 Hz), 8.08 (2H, d, J=7.8 Hz), 7.65 (1H, d, J=8.1 Hz), 7.51 (2H, d, J=8.0 Hz), 7.40-7.38 (2H, m), 7.31 (1H, td, J=7.0, 2.3 Hz), 7.18 (1H, d, J=7.6 Hz), 3.09-2.80 (5H, m), 2.16 (3H, s), 1.99-1.90 (1H, m), 0.96 (6H, dd, J=6.8, 2.1 Hz). LC/MS (Method B): 524 (M+H)+. HPLC (Method H) Rt 9.20 min (Purity: 97.7%).

reactant | (2S)-tert-butyl 3-methyl-2-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)butanoate | 0.15 mmol, 86 mg | CC([C@@H](C(=O)OC(C)(C)C)NCCC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)C | C33H36F3N3O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (2S)-3-methyl-2-(4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)butanoic acid | CC([C@@H](C(=O)O)NCCC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)C | C29H28F3N3O3
